US07728010B2
Step 2. Synthesis of 4-(4-Amino-3-nitro-phenoxy)-pyridine-2-carboxylic acid dimethylamide
A mixture containing 4-amino-3-nitrophenol (1 eq) and potassium bis(trimethylsilyl)amide (2 eq) was stirred in dimethylformamide for 2 hours at room temperature. To this mixture was added 4-Chloro-pyridine-2-carboxylic acid dimethylamide (1 eq) and potassium carbonate (1.2 eq) and then it was stirred at 90° C. for 3 days. The reaction mixture was then concentrated before partitioning between ethyl acetate and water. The organic layer was separated, washed with brine, dried, filtered and concentrated in vacuum to give brown solid. Purification by flash chromatography with ethyl acetate and hexane (1:1) gave the desired product as a yellow syrup. HPLC, 1.69 min; MS: MH+=303.1.

reactant | 4-amino-3-nitrophenol | 1 eq | NC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
reactant | potassium bis(trimethylsilyl)amide | 2 eq | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-Chloro-pyridine-2-carboxylic acid dimethylamide | 1 eq | CN(C(=O)C1=NC=CC(=C1)Cl)C | C8H9ClN2O
reactant | potassium carbonate | 1.2 eq | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(4-Amino-3-nitro-phenoxy)-pyridine-2-carboxylic acid dimethylamide | CN(C(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)N)[N+](=O)[O-])C | C14H14N4O4
